US05571810
A mixture of 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]-2-thiophenamine (0.9 g) and methyl isocyanate (1.4 ml) in tetrahydrofuran (20 ml) was stirred and refluxed for 1 hour. The solvent was evaporated and the residue (1.5 g) was purified by column chromatography on silica gel eluting with a mixture of chloroform and methanol (10:1) to give a brown powder of N-{5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]-2-thienyl}-N'-methylurea (0.77 g).

reactant | 5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]-2-thiophenamine | 0.9 g | FC1=CC=C(C=C1)C1=C(C=C(S1)N)C1=CC=C(C=C1)S(=O)(=O)C | C17H14FNO2S2
reactant | methyl isocyanate | 1.4 ml | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | N-{5-(4-fluorophenyl)-4-[4-(methylsulfonyl)phenyl]-2-thienyl}-N'-methylurea | 0.77 g | FC1=CC=C(C=C1)C1=C(C=C(S1)NC(=O)NC)C1=CC=C(C=C1)S(=O)(=O)C | C19H17FN2O3S2
